US07541374B2
1.38 g of 1-(hydroxymethyl)-4-methoxycarbonyl-1H-pyrazole was dissolved to 10 ml of dichloromethane. 1 ml of thionyl chloride was added to the solution, followed by stirring at room temperature for overnight. The reaction mixture was concentrated under reduced pressure to obtain 1.59 g of 1-(chloromethyl)-4-methoxycarbonyl-1H-pyrazole.

reactant | 1-(hydroxymethyl)-4-methoxycarbonyl-1H-pyrazole | 1.38 g | OCN1N=CC(=C1)C(=O)OC | C6H8N2O3
reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(chloromethyl)-4-methoxycarbonyl-1H-pyrazole | 1.59 g | ClCN1N=CC(=C1)C(=O)OC | C6H7ClN2O2
